US06673786B1
B6. Methyl 4-(Hydroxyimino-methyl)cinnamate
4.0 g of methyl 4-formylcinnamate are dissolved in 40 ml methanol and then 1.6 g hydroxylamine-hydrochloride and 1.9 g sodium acetate are added. The mixture is stirred overnight and then diluted with 300 ml water. The precipitate is filtered by suction, dried in vacuo and crystallized from ethyl acetate/petrolether. This gives 3.56 9 of the title compound. The mass spectrum shows the molecular peak MH+ at 206 Da.

reactant | methyl 4-formylcinnamate | 4.0 g | C(=O)C1=CC=C(C=CC(=O)OC)C=C1 | C11H10O3
reactant | hydroxylamine-hydrochloride | 1.6 g | Cl.NO
reactant | sodium acetate | 1.9 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | Methyl 4-(Hydroxyimino-methyl)cinnamate | ON=CC1=CC=C(C=CC(=O)OC)C=C1 | C11H11NO3
